US04728659
N-(4-Nicotinoyloxy-4-phenyl-2-butynyl)-N,N-diethylamine
Dissolved in anhydrous tetrahydrofuran was 2.17 g of N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine, followed by an addition of 4 ml of pyridine. Then, 1.78 g of nicotinyl chloride hydrochloride was added at room temperature little by little. The resultant mixture was thereafter reacted at the same temperature for 4 hours. After the reaction, the solvent was distilled off under reduced pressure and the residue was taken up in chloroform. The resultant chloroform solution was washed with water and was then dried over anhydrous sodium sulfate. The chloroform was distilled off under reduced pressure and the residue was purified by column chromatography (silica gel) to obtain 1.5 g of the intended product as a light yellowish oily substance (yield: 46.6%).

reactant | N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine | 2.17 g | C1(=CC=CC=C1)C(C#CCN(CC)CC)O | C14H19NO
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | nicotinyl chloride hydrochloride | 1.78 g | Cl.C(C1=CN=CC=C1)Cl
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-Nicotinoyloxy-4-phenyl-2-butynyl)-N,N-diethylamine | 1.5 g, yield: 46.6% | C(C1=CN=CC=C1)(=O)OC(C#CCN(CC)CC)C1=CC=CC=C1 | C20H22N2O2
